US07732435B2
7-(4-Chlorophenyl)-8-isopropyl-3H-chromeno[7,8-d]oxazole-2,6-dione
A stirred solution of 7-amino-3-(4-chlorophenyl)-8-hydroxy-2-isopropyl-chromen-4-one (0.0532 g, 0.16 mmol) in anhydrous methylene chloride (2 ml) is treated at room temperature with a 20% phosgene in toluene solution (0.08 ml). After 30 min, triethylamine (0.032 g, 0.045 ml, 0.32 mmol, 2 eq.) is added, and the reaction mixture is stirred at room temperature for 1 h, transferred to the head of an aminoalkylated silica gel column (Sepra NH2, 50 micrometer, Phenomenex) and purified by flash chromatography (cyclohexane/ethyl acetate=9:1 to 1% acetic acid in ethyl acetate) to afford the title compound.

reactant | 7-amino-3-(4-chlorophenyl)-8-hydroxy-2-isopropyl-chromen-4-one | 0.16 mmol, 0.0532 g | NC1=CC=C2C(C(=C(OC2=C1O)C(C)C)C1=CC=C(C=C1)Cl)=O | C18H16ClNO3
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 0.32 mmol, 0.045 ml, 0.032 g, 2 eq. | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 0.08 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(4-Chlorophenyl)-8-isopropyl-3H-chromeno[7,8-d]oxazole-2,6-dione | ClC1=CC=C(C=C1)C1=C(OC2=C(C1=O)C=CC=1NC(OC12)=O)C(C)C | C19H14ClNO4
